US05900475
Preparation of (4-chlorobutyl) dimethyldodecylammonium bromide
Into a 1000 mL, round-bottomed flask equipped with air condensers and a magnetic stirring plate was charged N,N-dimethyldodecylamine (308.8 grams, 1.45 moles), 1-bromo-4-chlorobutane (249.98 grams, 1.45 moles) and 300 mL of methanol. The reaction was maintained at 65° C. for 48 hours. Solvent was removed by rotary evaporation under reduced pressure to yield brown oil. To the oil was added 100 ml of 1-butanol. The mixture was distilled under vacuum at 30° C. to 50° C. until distillate stopped collecting Yield 384.47 grams (0.99 moles, 69%).

reactant | N,N-dimethyldodecylamine | 1.45 moles, 308.8 grams | CN(C)CCCCCCCCCCCC | C14H31N
reactant | 1-bromo-4-chlorobutane | 1.45 moles, 249.98 grams | BrCCCCCl | C4H8BrCl
reactant | methanol | 300 mL | CO | CH4O
solvent | 1-butanol | 100 ml | C(CCC)O | C4H10O
product | (4-chlorobutyl) dimethyldodecylammonium bromide | [Br-].ClCCCC[N+](CCCCCCCCCCCC)(C)C | InChI=1S/C18H39ClN.BrH/c1-4-5-6-7-8-9-10-11-12-14-17-20(2,3)18-15-13-16-19;/h4-18H2,1-3H3;1H/q+1;/p-1
